US06451810B1
A suspension of N1-{3-[(3-nitroquinolin-4-yl)amino]propyl}benzamide (1.0 g, 2.8 mmol) in isopropyl alcohol (120 mL) was warmed to dissolve some of the material. A catalytic amount of platinum on carbon was added and the reaction mixture was placed under a hydrogen atmosphere at 50 psi (3.4×104 pascals) on a Parr apparatus. After 3 hours the reaction mixture was filtered to remove catalyst. The filtrate was concentrated under vacuum to provide crude N1-{3-[(3-aminoquinolin-4-yl)amino]propyl}benzamide as an oil. Toluene (100 mL) was added to the oil followed by the addition of triethylorthoformate (0.8 g, 5.6 mmol). The reaction mixture was heated on a steam bath overnight. The reaction mixture was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration to provide 0.53 g of N1-[3-(1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide as an off white solid, m.p. 188-190° C. 1H NMR (500 MHz, DMSO-d6) δ8.67 (t, J=5.5 Hz, 1H), 8.50 (s, 1H), 8.37 (d, J=7.5 Hz, 1H), 8.17 (dd, J=8.0, 1.5 Hz, 1H), 7.87 (d, J=7.0 Hz, 2H), 7.71 (dt, J=7.5, 1.5 Hz, 1H), 7.56 (dt, J=7.5, 1.0 Hz, 1H), 7.54 (d, J=8.0 Hz, 2H), 7.48 (t, J=7.0 Hz, 2H), 4.78 (t, J=7.0 Hz, 2H), 3.38 (q, J=6.0 Hz, 2H), 2.18 (quintet, J=7.0 Hz, 2H).

reactant | N1-{3-[(3-nitroquinolin-4-yl)amino]propyl}benzamide | 2.8 mmol, 1.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCNC(C1=CC=CC=C1)=O | C19H18N4O3
reactant | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | triethylorthoformate | 5.6 mmol, 0.8 g | C(C)OC(OCC)OCC | C7H16O3
solvent | isopropyl alcohol | 120 mL | C(C)(C)O | C3H8O
catalyst | platinum on carbon | [Pt] | Pt
product | N1-[3-(1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide | 0.53 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCNC(C2=CC=CC=C2)=O | C20H18N4O
